US07776904B2
Preparation 1: 3-(4-bromophenyl)-1H-pyrrole-2,5-dione (P1)
A solution of hydrochloric acid (37%, 27 mL) in water (11 mL) was added to 4-bromo aniline (15 g) at room temperature with vigorous stirring and the formed precipitate was allowed to stir for further 30 minutes. Temperature was reduced to 0° C. and a solution of sodium nitrite (6.60 g) in water (17 mL) was added dropwise to the stirred suspension. At the end of diazotisation, a clear yellow solution was obtained. Maleimide (16.90 g) in acetone (70 mL) was added dropwise at 0° C. and then the pH of the solution was adjusted to 3-3.5 by adding sodium acetate. Copper (II) chloride (1.76 g) was added to the vigorously stirred mixture. The reaction mixture was allowed to stir at 0° C. for 1 h and overnight at room temperature. Acetone was removed in vacuo, the residue was filtered and dried overnight in vacuo to give the crude title compound (14.12 g) which was used without further purification.

reactant | hydrochloric acid | 27 mL | Cl | ClH
reactant | 4-bromo aniline | 15 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | sodium nitrite | 6.60 g | N(=O)[O-].[Na+]
reactant | Maleimide | 16.90 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | 11 mL | O | H2O
solvent | water | 17 mL | O | H2O
solvent | acetone | 70 mL | CC(=O)C | C3H6O
catalyst | Copper (II) chloride | 1.76 g | [Cu](Cl)Cl
product | 3-(4-bromophenyl)-1H-pyrrole-2,5-dione | 14.12 g | BrC1=CC=C(C=C1)C=1C(NC(C1)=O)=O | C10H6BrNO2
